US05081131
To a solution of 2.6 grams of 4-(3-pryidinyl butylamine in 75 ml of ethanol, 5.1 grams of 8-methyl-2-methylthiobenz(cd)indole hydriodide was added. The mixture was then stirred and heated under reflux for 16 hours. The hot reaction mixture was clarified and the filtrate cooled at -10° C., yielding 4.75 grams of 8-methyl-N-(4-(3-pyridinyl)butyl)benz(cd)indol-2-amine hydriodide, m.p. 175°-176° C. with decomposition.

reactant | 3-pryidinyl butylamine | N1=C(C=CC=C1)C(CCN)C | C9H14N2
reactant | 8-methyl-2-methylthiobenz(cd)indole hydriodide | 5.1 grams | I.CC=1C=CC=2C3=C(C(=NC13)SC)C=CC2
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 8-methyl-N-(4-(3-pyridinyl)butyl)benz(cd)indol-2-amine hydriodide | 4.75 grams | I.CC=1C=CC=2C3=C(C(=NC13)NCCCCC=1C=NC=CC1)C=CC2 | InChI=1S/C21H21N3.HI/c1-15-10-11-17-8-4-9-18-19(17)20(15)24-21(18)23-13-3-2-6-16-7-5-12-22-14-16;/h4-5,7-12,14H,2-3,6,13H2,1H3,(H,23,24);1H
